US09145354B2
Step 2 {(R)-[4-Chloro-3-(5-chloro-pyrazine-2-carbonyl)-2-fluoro-phenyl]-cyclopropyl-methyl}-carbamic acid tert-butyl ester (709 mg, 1.61 mmol), 4-methoxybenzylamine (0.232 ml, 1.77 mmol), triethylamine (0.448 ml, 3.22 mmol) and dimethylformamide (5 ml) was heated to 80 deg C for 3 hours. The reaction was allowed to cool, ethyl acetate was added, and the mixture was washed with 10% aqueous lithium chloride solution and brine. The organic liquors were dried (MgSO4) and concentrated. The residue was purified by column chromatography eluting with 10-50% ethyl acetate/petroleum ether furnishing ((R)-{4-Chloro-2-fluoro-3-[5-(4-methoxy-benzylamino)-pyrazine-2-carbonyl]-phenyl}-cyclopropyl-methyl)-carbamic acid tert-butyl ester (512 mg) as a yellow oil. [M+H]+ 541

reactant | {(R)-[4-Chloro-3-(5-chloro-pyrazine-2-carbonyl)-2-fluoro-phenyl]-cyclopropyl-methyl}-carbamic acid tert-butyl ester | 1.61 mmol, 709 mg | C(C)(C)(C)OC(N[C@H](C1CC1)C1=C(C(=C(C=C1)Cl)C(=O)C1=NC=C(N=C1)Cl)F)=O | C20H20Cl2FN3O3
reactant | 4-methoxybenzylamine | 1.77 mmol, 0.232 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | triethylamine | 3.22 mmol, 0.448 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ((R)-{4-Chloro-2-fluoro-3-[5-(4-methoxy-benzylamino)-pyrazine-2-carbonyl]-phenyl}-cyclopropyl-methyl)-carbamic acid tert-butyl ester | 512 mg | C(C)(C)(C)OC(N[C@H](C1CC1)C1=C(C(=C(C=C1)Cl)C(=O)C1=NC=C(N=C1)NCC1=CC=C(C=C1)OC)F)=O | C28H30ClFN4O4
